US04563211
4,6-Bis(trifluoromethyl)-2-pyrimidinamine
A mixture of guanidine carbonate (180 mmol) and 1,1,1,5,5,5-hexafluoro-2,4-pentanedione (120 mmol) was dissolved in 60 ml of DMSO and warmed to 110° C. for 2 to 3 hours. Flash chromatography of the crude reaction product with ether/hexane (50:50) afforded 13.8 g of the title compound as a white crystalline solid, m.p. 94.5°-96° C. NMR (60 MHz, CDCl3): δ 6.5 (br. s, 2H); 7.2 (s, 1H). A second product isolated was the hydroxypyrimidine (A is A-3): m.p. 116°-118.5° C. NMR (90 MHz, CDCl3): δ 7.1 (br. s, 3H); 7.3 (s, 1H).

reactant | guanidine carbonate | 180 mmol | C(O)(O)=O.NC(=N)N
reactant | 1,1,1,5,5,5-hexafluoro-2,4-pentanedione | 120 mmol | FC(C(CC(C(F)(F)F)=O)=O)(F)F | C5H2F6O2
reactant | ether hexane | CCOCC.CCCCCC
solvent | DMSO | 60 ml | CS(=O)C | C2H6OS
product | 4,6-Bis(trifluoromethyl)-2-pyrimidinamine | 13.8 g | FC(C1=NC(=NC(=C1)C(F)(F)F)N)(F)F | C6H3F6N3
